US06908935B2
Step 3) 4-Methoxy-3-(4-methoxyphenyl)benzyl alcohol:
A solution of 4-methoxy-3-(4-methoxyphenyl)benzenecarboxaldehyde (1 g, 4.13 mmol) in methanol (12 mL) was treated with polymer-supported borohydride (10.3 mmol) and the mixture shaken for 16 hours. The resin was then filtered and the filtrate concentrated under reduced pressure to afford 0.88 g of title compound.

reactant | 4-methoxy-3-(4-methoxyphenyl)benzenecarboxaldehyde | 4.13 mmol, 1 g | COC1=C(C=C(C=C1)C=O)C1=CC=C(C=C1)OC | C15H14O3
reactant | borohydride | 10.3 mmol | [BH4-]
solvent | methanol | 12 mL | CO | CH4O
product | 4-Methoxy-3-(4-methoxyphenyl)benzyl alcohol | 0.88 g | COC1=C(C=C(CO)C=C1)C1=CC=C(C=C1)OC | C15H16O3
